US04042705
5.8 g (0.02 mols) of 1-methyl-2-(4-thiocyanatophenyloxymethyl)-5-nitro-imidazole are introduced portionwise while stirring, under a nitrogen atmosphere, at room temperature, into a mixture of 26.5 ml of concentrated sulfuric acid and 5.0 g (0.04 mol) of dimethylsulfate and allowed to stand overnight at room temperature. The solution is then heated to 60° C. for 30 minutes, cooled and poured onto ice/water. The precipiate is suction-filtered and washed with water. In addition to bis-4,4'-(1-methyl-5-nitro-imidazolyl-2-methoxy)-diphenyl disulfide (m.p. 160° C.), column chromatographical purification on silica gel yields the 1-methyl-2-(4-methylthiophenyl-oxymethyl)-5-nitro-imidazole, m.p. 116° C.

reactant | 1-methyl-2-(4-thiocyanatophenyloxymethyl)-5-nitro-imidazole | 0.02 mols, 5.8 g | CN1C(=NC=C1[N+](=O)[O-])COC1=CC=C(C=C1)SC#N | C12H10N4O3S
reactant | sulfuric acid | 26.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | dimethylsulfate | 0.04 mol, 5.0 g | COS(=O)(=O)OC | C2H6O4S
product | 1-methyl-2-(4-methylthiophenyl-oxymethyl)-5-nitro-imidazole | CN1C(=NC=C1[N+](=O)[O-])COC1=CC=C(C=C1)SC | C12H13N3O3S
